US08076345B2
B) 6-Benzyl-N-((6-methoxypyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine
A mixture of 6-benzyl-N-((6-chloropyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine (2.5 g, 6.8 mmol), MeOH (5 mL), and 15% wt. sodium methoxide solution (10 g, 48 mmol) in MeOH was subjected to microwave irradiation at 150° C. for 60 min. The mixture was concentrated in vacuo and the residue was treated with water (50 mL) and extracted with CH2Cl2 (3×50 mL). The combined organic layers were washed with brine, dried (Na2SO4), and concentrated. The residue was purified by silica gel column (MeOH/CH2Cl2: 0-15%) to yield a yellow solid (2.0 g, 79%).

reactant | 6-benzyl-N-((6-chloropyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine | 6.8 mmol, 2.5 g | C(C1=CC=CC=C1)N1CC2=C(N=CN=C2NCC=2C=NC(=CC2)Cl)CC1 | C20H20ClN5
reactant | sodium methoxide | 48 mmol, 10 g | C[O-].[Na+]
solvent | MeOH | CO | CH4O
solvent | MeOH | 5 mL | CO | CH4O
product | 6-Benzyl-N-((6-methoxypyridin-3-yl)methyl)-5,6,7,8-tetrahydropyrido[4,3-d]pyrimidin-4-amine | 2.0 g, 79% | C(C1=CC=CC=C1)N1CC2=C(N=CN=C2NCC=2C=NC(=CC2)OC)CC1 | C21H23N5O
